US07378417B2
5-(4-Chloro-3-methyl-phenyl)-7-difluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-methanesulfonyl-phenyl)-amide
The title compound was prepared from 7-difluoromethyl-5-(3-methyl-4-chloro-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (Example C.14) and 3-methanesulfonyl-phenylamine [commercially available as hydrochloride] according to general procedure II. Yellow solid. MS (ISP) 488.9 [(M−H)−]; mp 270° C.

reactant | 7-difluoromethyl-5-(3-methyl-4-chloro-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC(C1=CC(=NC=2N1N=CC2C(=O)O)C2=CC(=C(C=C2)Cl)C)F | C15H10ClF2N3O2
reactant | 3-methanesulfonyl-phenylamine | CS(=O)(=O)C=1C=C(C=CC1)N | C7H9NO2S
reactant | hydrochloride | Cl | ClH
product | 5-(4-Chloro-3-methyl-phenyl)-7-difluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-methanesulfonyl-phenyl)-amide | CS(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN2C1N=C(C=C2C(F)F)C2=CC(=C(C=C2)Cl)C | C22H17ClF2N4O3S
